US05387603
To a solution of 1-acetyl-5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carbonitrile (200 mg) in dry methylene chloride (2 ml) was added di-tert-butyl dicarbonate (160 mg), and the mixture was reacted at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by flash column chromatography on silica gel using a mixture of chloroform and ethyl acetate (4/1) as eluent to give 167 mg of 1-acetyl-5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy) ethylamino]propyl]indoline-7-carbonitrile as an oil.

reactant | 1-acetyl-5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carbonitrile | 200 mg | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)CC(C)NCCOC1=C(C=CC=C1)OCC | C24H29N3O3
reactant | di-tert-butyl dicarbonate | 160 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-acetyl-5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy) ethylamino]propyl]indoline-7-carbonitrile | 167 mg | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)CC(C)N(C(=O)OC(C)(C)C)CCOC1=C(C=CC=C1)OCC | C29H37N3O5
